US06017853
To a methanol solution of 14.2 g of cyclopropylmethylamine and 22.5 g of potassium tert-butoxide, 20 g of carbon disulfide was added dropwise under cooling with ice. After 30 minutes, 25.2 g of dimethyl sulfate was added thereto under the same condition as above and the reaction was conducted for 1 hour. After adding water to the reaction solution, the mixture was extracted with toluene and the toluene layer was washed with water. After drying the toluene solution with anhydrous magnesium sulfate, toluene was distilled off to obtain 26.3 g of methyl cyclopropylmethyldithiocarbamate. To the dithiocarbamate thus obtained, an aqueous solution of 12.7 g of sodium azide was added and reacted at 100° C. until the evolution of methylmercaptan was ceased. After allowing to cool off, the reaction solution was washed with ethyl acetate. To the aqueous layer, ethyl acetate was added, acidified with diluted hydrochloric acid and then the acidic materials were extracted with ethyl acetate. The ethyl acetate solution was washed with saturated saline, dried over anhydrous magnesium sulfate and then ethyl acetate was distilled off under reduced pressure to obtain 10 g of 1-cyclopropylmethyl-4-H-tetrazolin-5-thione. The product was dissolved in 10 ml of an aqueous solution of 3.2 g of sodium hydroxide and 6 g of propylene oxide was added thereto under cooling with ice. The reaction solution was stirred overnight. Then, the reaction solution was acidified with concentrated hydrochloric acid and extracted with chloroform. The organic layer was washed with saturated saline and dried over anhydrous magnesium sulfate. After distilling off the solvent, the residue was purified by column chromatography on silica gel (n-hexane/ethyl acetate=1:1) to obtain 5.0 g of 1-cyclopropylmethyl-5(4H)-tetrazolinone. m.p.: 61-64° C.

reactant | methanol | CO | CH4O
reactant | cyclopropylmethylamine | 14.2 g | C1(CC1)CN | C4H9N
reactant | potassium tert-butoxide | 22.5 g | CC(C)([O-])C.[K+]
reactant | dimethyl sulfate | 25.2 g | S(=O)(=O)(OC)OC | C2H6O4S
reactant | carbon disulfide | 20 g | C(=S)=S | CS2
solvent | water | O | H2O
product | methyl cyclopropylmethyldithiocarbamate | 26.3 g | C1(CC1)CNC(SC)=S | C6H11NS2
